US04663469
A solution of 0.268 g (1 mM) of Nα-benzyloxycarbonyl-4-hydroxy-L-allothreoninamide in 5 mL DMF was cooled to -10° C. and 0.12 g (1 mM) chloroacetylisocyanate was added and the reaction was stirred at -10° C. for 1 hr to give (2S,3S)-2-benzyloxy-carboxamido-3-hydroxy-4-(N-chloroacetylcarbamoyloxy-butanamide. To the above reaction mixture, 0.148 g (1.25 mM) methanesulfonylchloride was added at -15° to -10° C. and 0.26 mL triethylamine was added subsequently. The reaction mixture was stirred at -15° to -10° C. for 40 min. After the reaction, ethylacetate (20 mL) was added. The resulting mixture was washed with 5% aqueous NaH2PO4, brine and the organic layer was dried over Na2SO4. Solvent was removed at the reduced pressure and the crude product was purified by column chromatograph (SiO2, EtOAc:Hexane-8:2) to give (2S, 3S)-2-benzyloxycarboxamido-3-methanesulfonyloxy-4-(N-chloroacetylcarbamoyloxy)-butanamide 0.25 g (53%).

reactant | Nα-benzyloxycarbonyl-4-hydroxy-L-allothreoninamide | 1 mM, 0.268 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]([C@@H](O)CO)C(=O)N | C12H16N2O5
reactant | chloroacetylisocyanate | 1 mM, 0.12 g | ClCC(=O)N=C=O | C3H2ClNO2
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-chloroacetylcarbamoyloxy-butanamide | ClCC(=O)NC(=O)ONC(CCC)=O | C7H11ClN2O4
